US08871802B2
Preparation of 2-trimethylsilyl-naphtho[2,3-b]furan-4,9-dione
To 1.2 gram (4 mmoles) of crude product 2-trimethylsilyl-4,9-dimethoxy-naphtho[2,3-b]furan in 50 mL of acetonitrile/water (4:1) in ice bath, 4.8 grams (8.7 mmoles) of cerium ammonium nitrate (CAN) solution in 50 mL of acetonitrile/water (1:4) was added dropwise over 10 minutes. The mixture was further stirred in ice bath for 1 hour, and then evaporated to remove acetonitrile. The remaining aqueous suspension was filtered, and the collected solid was washed with water and crystallized in ethanol/water. Pure crystal product was filtered and dried under vacuum. 0.89 grams of product (overall yield 75%) was obtained and characterized by 1H NMR and mass spectrum. 1H NMR (in CDCl3) δ 0.41 (s, 9H), 7.16 (s, 1H), 7.75-7.78 (m, 2H), 8.19-8.26 (m, 2H). Mass (M+H) is 271.

reactant | 2-trimethylsilyl-4,9-dimethoxy-naphtho[2,3-b]furan | C[Si](C1=CC2=C(O1)C(=C1C=CC=CC1=C2OC)OC)(C)C | C17H20O3Si
reactant | cerium ammonium nitrate | 8.7 mmoles, 4.8 grams | [N+](=O)([O-])[O-].[NH4+].[Ce]
solvent | acetonitrile water | 50 mL | C(C)#N.O
solvent | acetonitrile water | 50 mL | C(C)#N.O
product | 2-trimethylsilyl-naphtho[2,3-b]furan-4,9-dione | 0.89 grams, yield 75% | C[Si](C1=CC2=C(O1)C(C1=CC=CC=C1C2=O)=O)(C)C | C15H14O3Si
